US09447084B2
(3-chloropropyl)(2,2,2-trifluoroethyl)amine
Into a 250-mL round-bottom flask, was placed N-(3-chloropropyl)-2,2,2-trifluoroacetamide (6 g, 31.65 mmol, 1.00 equiv), tetrahydrofuran (30 mL), BH3/THF (80 mL). The resulting solution was stirred for 3 h at 80° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 200 mL of H2O. The resulting solution was extracted with 4×100 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 2×100 mL of brine. The mixture was dried over anhydrous sodium sulfate. This resulted in 5 g (90%) of (3-chloropropyl)(2,2,2-trifluoroethyl)amine as a light yellow liquid.

reactant | N-(3-chloropropyl)-2,2,2-trifluoroacetamide | 31.65 mmol, 6 g, 1.00 equiv | ClCCCNC(C(F)(F)F)=O | C5H7ClF3NO
reactant | BH3/THF | 80 mL | B.C1CCOC1
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (3-chloropropyl)(2,2,2-trifluoroethyl)amine | ClCCCNCC(F)(F)F | C5H9ClF3N
